US06337344B1
150 mg (0.5 mmol) of 2-(4-cyano-benzoyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole were dissolved in 5 ml of dimethylformamide. 60 mg of potassium tert-butoxide were added and the mixture was stirred for 5 minutes, treated with 100 mg of 3-cyano-benzyl bromide and slowly heated up to 80° C. The mixture was acidified by addition of acetic acid and evaporated under reduced pressure. The residue was partitioned between methylene chloride and 10% aqueous sodium carbonate solution, dried and evaporated. Chromatography of the residue over 12 g of silica gel using 10% (v/v) of ethyl acetate in methylene chloride and crystallization from ethyl acetate/hexane yielded 132 mg of 2-(4-cyano-benzoyl)-9-(3-cyano-benzyl) -1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole with m.p. 178-180° C.

reactant | 2-(4-cyano-benzoyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 0.5 mmol, 150 mg | C(#N)C1=CC=C(C(=O)N2CC=3NC4=CC=CC=C4C3CC2)C=C1 | C19H15N3O
reactant | potassium tert-butoxide | 60 mg | CC(C)([O-])C.[K+]
reactant | 3-cyano-benzyl bromide | 100 mg | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-cyano-benzoyl)-9-(3-cyano-benzyl) -1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 132 mg | C(#N)C1=CC=C(C(=O)N2CC=3N(C4=CC=CC=C4C3CC2)CC2=CC(=CC=C2)C#N)C=C1 | C27H20N4O
